* CL05A475MP5NRN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 4.7uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.15mm
*     Width = 0.50+/-0.15mm
*     Thickness = 0.50+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 1.25V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A475MP5NRN_Precise_DC1.25V_25degC 1 2
C1 1 3 3.12953E-6
C2 3 4 5.93221E-5
C3 4 5 9.92634E-5
C4 5 6 9.35901E-5
C5 6 7 1.11854E-4
C6 7 8 8.52278E-5
C7 8 9 2.29637E-5
C8 9 10 1.0E-10
C16 17 18 3.87994E-4
C17 18 19 0.00165
C18 19 20 0.00598
C19 20 21 2.88019E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 4.20637E-6
C24 25 26 7.15543E-7
C25 26 27 2.53303E-4
C26 27 28 4.73169E-12
C27 28 2 2.53303E-4
L10 11 12 5.93284E-11
L11 12 13 3.42820E-11
L12 13 14 1.02758E-10
L13 14 15 4.42880E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 5.11680E-12
L17 18 19 3.44920E-12
L18 19 20 1.32057E-13
L19 20 21 1.72505E-12
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 7.22669E-11
L24 25 26 1.00132E-10
L25 26 27 1.0E-10
L26 27 28 3.42392E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8 noisy=0
R2 3 4 76.84658 noisy=0
R3 4 5 3.20532 noisy=0
R4 5 6 0.41587 noisy=0
R5 6 7 0.04379 noisy=0
R6 7 8 0.00722 noisy=0
R7 8 9 0.00164 noisy=0
R8 9 10 1.0E-6 noisy=0
R9 10 11 0.00219 noisy=0
R11 12 13 0.00732 noisy=0
R12 13 14 0.02661 noisy=0
R13 14 15 0.13317 noisy=0
R14 15 16 1.0E-6 noisy=0
R15 16 17 1.0E-6 noisy=0
R16 17 18 8.33578E-4 noisy=0
R17 18 19 2.72921E-4 noisy=0
R18 19 20 8.88580E-5 noisy=0
R19 20 21 4.37966E-4 noisy=0
R20 21 22 1.0E-6 noisy=0
R21 22 23 1.0E-6 noisy=0
R22 23 24 1.0E-6 noisy=0
R23 24 25 0.00519 noisy=0
R24 25 26 0.00774 noisy=0
R25 26 27 1.0E-6 noisy=0
R26 27 28 3.23181 noisy=0
R27 28 2 1.0E-6 noisy=0
.ENDS CL05A475MP5NRN_Precise_DC1.25V_25degC
